US08865736B2
5-(1-Bromo-ethyl)-3-(4-chloro-phenyl)-[1,2,4]oxadiazole
To a solution of 3-(4-Chloro-phenyl)-5-ethyl-[1,2,4]oxadiazole (0.29 g, 1.38 mmol) in CCl4 (10 mL) was added NBS (0.24 g, 1.38 mmol) and AIBN (0.02 g, 0.0001 mmol). The reaction mixture was heated at 100° C. for 2 h under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (230-400 M) using 1% ethyl acetate/hexane as eluent to give the desired product (0.12 g, 30%).

reactant | 3-(4-Chloro-phenyl)-5-ethyl-[1,2,4]oxadiazole | 1.38 mmol, 0.29 g | ClC1=CC=C(C=C1)C1=NOC(=N1)CC | C10H9ClN2O
reactant | NBS | 1.38 mmol, 0.24 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.0001 mmol, 0.02 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(1-Bromo-ethyl)-3-(4-chloro-phenyl)-[1,2,4]oxadiazole | 0.12 g, 30% | BrC(C)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C10H8BrClN2O
